US06399629B1
(H) trans-4-Glycylamino-D-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-proline 3-Quinolylamide
A solution of N-tert-butoxycarbonyl-trans-4-(N-tert-butoxycarbonylglycylamino)-D-prolyl-trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide (G, 120 mg) at 0° C., and methanol (3 mL) was added to dissolve until insoluble materials. After stirring for 2 hr, the reaction mixture was evaporated and coevaporated with 1,4-dioxane and ether in vacuo to give solid. The solids were washed with ether to afford the title compound (97 mg) as a colorless solid: 1H NMR (400 MHz, D2O) δ 1.86-2.03 (m, 2H), 2.24-2.45 (m, 3H), 2.59-2.63 (m, 2H), 3.32 (m, 1H), 3.40-3.45 (m, 1H), 3.60-3.70 (m, 3H), 3.92-4.07 (m, 2H), 4.35-4.42 (m, 2H), 4.61-4.79 (m, 4H), 7.06-7.24 (m, 5H), 7.76 (t, 1H), 7.90 (t, 1H), 8.03 (d, 1H), 8.05(d, 1H), 8.86(s,1H), and 9.21 (s, 1H); mass spectrum (FAB+) m/e 588 (M+1); Anal. Calcd. For C31H37N7O5.3HCl.2H2O: C, 50.79; H, 6.05; N, 13.37. Found: C, 51.09; H, 6.07; N, 12.97.

reactant | N-tert-butoxycarbonyl-trans-4-(N-tert-butoxycarbonylglycylamino)-D-prolyl-trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide | 120 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C([C@@H]1N(C[C@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)=O | C41H53N7O9
solvent | methanol | 3 mL | CO | CH4O
product | trans-4-Glycylamino-D-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-proline 3-Quinolylamide | 97 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C([C@@H]1NC[C@H](C1)NC(CN)=O)=O)=O | C31H37N7O5
